US04645727
A mixture of 27.7 grams (0.1 mole) of 1,8-dichloroanthraquinone, 30 grams (0.22 mole) of p-(2-aminoethyl)phenol in 200 milliliters of o-dichlorobenzene was heated to 160° C. for 18 hours. The mixture was cooled to room temperature, and the product was collected by filtration. It was recrystallized from isopropanol to yield 29 grams (62%) of 1,8-bis[2-(p-hydroxyphenyl)ethylamino]anthraquinone as a red powder, m.p. 181°-182° C., vis (DMF), λmax 520 nm (ε12,000); ms 478 (M+); Calcd. for C30H26N2O4 : C, 75.29; H, 5.48; N, 5.86; O, 13.38; Found: C, 74.94; H, 5.30; N, 5.63; O, 13.17.

reactant | 1,8-dichloroanthraquinone | 0.1 mole, 27.7 grams | ClC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | p-(2-aminoethyl)phenol | 0.22 mole, 30 grams | NCCC1=CC=C(C=C1)O | C8H11NO
solvent | o-dichlorobenzene | 200 milliliters | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,8-bis[2-(p-hydroxyphenyl)ethylamino]anthraquinone | 29 grams, 62% | OC1=CC=C(C=C1)CCNC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)NCCC1=CC=C(C=C1)O)=O | C30H26N2O4
